US07786132B2
1-{2-[4-(5-Bromothiophen-2-yl)pyrimidin-2-ylamino]ethyl}-5,5-dimethylimidazolidine-2,4-dione
1.22 mL (0.71 mmol) of a 10% (w/v) solution of 1-(2-aminoethyl)-5,5-dimethylimidazolidine-2,4-dione in MeOH was added to a 10 mL microwave vessel. The MeOH was evaporated with a stream of N2, to leave an oily solid which was dissolved in 0.34 mL (2.0 mmol) of N,N-diisopropylethylamine, 0.5 mL of N-methylpyrrolidinone and 3.5 mL of toluene, to which was added 0.15 g (0.65 mmol) of 4-(5-bromothiophen-2-yl)-2-chloropyrimidine. The reaction solution was heated in a microwave to 180° C. for 20 min then concentrated in vacuo and purified by flash chromatography eluting with a linear gradient of 75% EtOAc in hexane to neat EtOAc to deliver The title compound. MS (M+H)+ 410.

reactant | 1-(2-aminoethyl)-5,5-dimethylimidazolidine-2,4-dione | NCCN1C(NC(C1(C)C)=O)=O | C7H13N3O2
reactant | N,N-diisopropylethylamine | 2.0 mmol, 0.34 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N-methylpyrrolidinone | 0.5 mL | CN1C(CCC1)=O | C5H9NO
reactant | 4-(5-bromothiophen-2-yl)-2-chloropyrimidine | 0.65 mmol, 0.15 g | BrC1=CC=C(S1)C1=NC(=NC=C1)Cl | C8H4BrClN2S
solvent | MeOH | CO | CH4O
solvent | toluene | 3.5 mL | C1(=CC=CC=C1)C | C7H8
product | 1-{2-[4-(5-Bromothiophen-2-yl)pyrimidin-2-ylamino]ethyl}-5,5-dimethylimidazolidine-2,4-dione | BrC1=CC=C(S1)C1=NC(=NC=C1)NCCN1C(NC(C1(C)C)=O)=O | C15H16BrN5O2S
